US06528505B1
Step A: Synthesis of 1,2,3,4-Tetrahydroquinoline-2-carboxylic Acid
A mixture of PtO2 (25 wt. %) and 2-quinolinecarboxylic acid (Aldrich) in acetic acid was hydrogenated at RT under 60 Psi overnight. The reaction mixture was stripped to dryness to give the title compound.

reactant | 2-quinolinecarboxylic acid | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | PtO2 | O=[Pt]=O
product | 1,2,3,4-Tetrahydroquinoline-2-carboxylic Acid | N1C(CCC2=CC=CC=C12)C(=O)O | C10H11NO2
